US07829580B2
(E)-4-(Acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}piperidine hydrochloride (Exemplification Compound No. 2-46)
To a solution of (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-4-sulfanylpiperidine hydrochloride (140 mg) in dichloromethane (5 ml) were added acetyl chloride (0.02 ml) and triethylamine (0.12 ml), and the resulting mixture was stirred at room temperature for 40 minutes. To the resulting reaction mixture were added acetyl chloride (0.02 ml) and triethylamine (0.4 ml), and the resulting mixture was stirred at room temperature for 80 minutes. The reaction mixture was concentrated in vacuo, and the residue was purified by chromatography on a silica gel column using methanol and dichloromethane (1:19) as the eluent. The yellow oily product obtained was dissolved in dichloromethane (3 ml) and a 4N solution of hydrogen chloride in dioxane (0.11 ml) was added to the resulting solution. After evaporation of the solvent of the reaction mixture under reduced pressure, the title compound (70 mg, yield: 46%) was afforded as a pale yellow amorphous solid.

reactant | (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-4-sulfanylpiperidine hydrochloride | 140 mg | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C1=NN(C=C1)CC(=O)OCC)=O
reactant | acetyl chloride | 0.02 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.02 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dioxane | 0.11 ml | O1CCOCC1 | C4H8O2
product | (E)-4-(Acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}piperidine hydrochloride | 70 mg, yield: 46% | Cl.C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN(C=C1)CC(=O)OCC | InChI=1S/C26H30FN3O4S.ClH/c1-3-34-24(32)16-30-13-10-20(28-30)14-19-15-29(12-11-23(19)35-17(2)31)25(26(33)18-8-9-18)21-6-4-5-7-22(21)27;/h4-7,10,13-14,18,23,25H,3,8-9,11-12,15-16H2,1-2H3;1H/b19-14+;
